US07528129B2
14b) 4-bromo-2-methyl-6-trifluoromethyl-phenylamine
Under a nitrogen atmosphere a solution of 11.0 mL (214 mmol) bromine in 100 mL chloroform was added dropwise to a solution of 35.8 g (204 mmol) 2-methyl-6-trifluoromethyl-phenylamine in 350 mL chloroform and after the end of the addition the reaction mixture was stirred for 3 h at RT. Saturated NaHCO3 solution was added with stirring, the mixture was stirred for a further 20 min at RT, the organic phase was separated off and dried over Na2SO4. After the desiccant and solvent had been eliminated the product was obtained as an oil, which was further reacted without purification.

reactant | bromine | 214 mmol, 11.0 mL | BrBr | Br2
reactant | 2-methyl-6-trifluoromethyl-phenylamine | 204 mmol, 35.8 g | CC1=C(C(=CC=C1)C(F)(F)F)N | C8H8F3N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 350 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-bromo-2-methyl-6-trifluoromethyl-phenylamine | BrC1=CC(=C(C(=C1)C(F)(F)F)N)C | C8H7BrF3N
